US07332485B2
N-Hydroxy-N-{1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cycloheptylmethyl}-Formamide
To a solution of N-benzyloxy-N-{1-[N′-(4-trifluoromethyl-pyrimidin-2-yl)-hydrazinocarbonyl]-cycloheptylmethyl}-formamide (0.11 g, 0.24 mmol) in methanol (10 mL) was added 10% Pd/C (0.03 g). The reaction mixture was subjected to hydrogenation for, 0.25 h at room temperature. The reaction mixture was then filtered through a pad of Celite@, and washed with methanol (20 mL). Removal of the solvent provided the title compound as a white solid (0.067 g, 75%). MH+376.

reactant | N-benzyloxy-N-{1-[N′-(4-trifluoromethyl-pyrimidin-2-yl)-hydrazinocarbonyl]-cycloheptylmethyl}-formamide | 0.24 mmol, 0.11 g | C(C1=CC=CC=C1)ON(C=O)CC1(CCCCCC1)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C22H26F3N5O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.03 g | [Pd] | Pd
product | N-Hydroxy-N-{1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cycloheptylmethyl}-Formamide | 0.067 g, 75% | ON(C=O)CC1(CCCCCC1)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C15H20F3N5O3
